US05665522
Preparation of 3-t-Butylisoxazol-5-one.
A mixture of 8.8 grams (126 mmol, 1 eq) of hydroxylamine hydrochloride and 10 grams (126 mmol, 1 eq) in 40 mL of ethanol was heated to reflux and 20 grams (126 mmol, 1 eq) of methyl 4,4-dimethyl-3-oxopentanoate was added. The reaction mixture was heated for 2 hours and then allowed to cool to room temperature overnight. The mixture formed a precipitate. To this mixture was added 50 mL of water with stirring and more precipitate formed. The solid was collected by filtration and dried. This gave 13.1 grams (48% yield) of the desired product. mp 110°-15° C.

reactant | hydroxylamine hydrochloride | 126 mmol, 8.8 grams, 1 eq | Cl.NO
reactant | methyl 4,4-dimethyl-3-oxopentanoate | 126 mmol, 20 grams, 1 eq | CC(C(CC(=O)OC)=O)(C)C | C8H14O3
reactant | water | 50 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-t-Butylisoxazol-5-one | 13.1 grams, 48% yield | C(C)(C)(C)C=1NOC(C1)=O | C7H11NO2
